US07592457B2
5-chloro-7-methoxy-3-(4-methoxy-phenyl)-3-methyl-1H-quinoline-2,4-dione
To a solution of 4,6-dichloro-2-[2-(4-methoxy-phenyl)-propionylamino]-benzoic acid methyl ester (1.00 g, 2.62 mmol) in dry THF (30 mL) was added NaH (0.32 g, 7.86 mmol, 60% dispersed in mineral oil) at room temperature. The reaction mixture was stirred for 10 hours at reflux temperature, and then poured into 1N HCl aqueous solution. The resulting mixture was extracted with ethyl acetate (100 mL×2). The organic layer was washed with brine (100 mL) and water (100 mL×2), dried over anhydrous MgSO4, and concentrated in vacuo. The objective compound (0.36 g, 41%) was obtained as pale yellow solid by a flash column chromatography (n-hexane:EtOAc=2:1): 1H NMR (200 MHz, CDCl3) δ 1.71 (s, 3H, CH3), 3.71 (s, 3H, OCH3), 3.89 (s, 3H, OCH3), 6.46 (d, J=1.6 Hz, 1H, ArH) 6.56 (d, J=1.6 Hz, 1H, ArH), 6.77 (dd, J=6.9 Hz, 2.0 Hz, 2H, ArH), 7.14 (dd, J=6.9 Hz, 2.0 Hz, 2H, ArH), 8.77 (br s, 1H, NH); m.p. 222-224° C.; MS(EI) m/e 345 [M+], 162, 134, 119, 91; HRMS m/e cacld. for C18H16NO4Cl 345.0768, found 345.0759.

reactant | 4,6-dichloro-2-[2-(4-methoxy-phenyl)-propionylamino]-benzoic acid methyl ester | 2.62 mmol, 1.00 g | COC(C1=C(C=C(C=C1Cl)Cl)NC(C(C)C1=CC=C(C=C1)OC)=O)=O | C18H17Cl2NO4
reactant | NaH | 7.86 mmol, 0.32 g | [H-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-chloro-7-methoxy-3-(4-methoxy-phenyl)-3-methyl-1H-quinoline-2,4-dione | 0.36 g, 41% | ClC1=C2C(C(C(NC2=CC(=C1)OC)=O)(C)C1=CC=C(C=C1)OC)=O | C18H16ClNO4
